US06500457B1
Polyvinylpyrrolidone (500 g) is dissolved in about 25 kg water (or a mixture of water and alcohol) and 10 kg of sotalol hydrochloride is mixed therein to provide a sotalol/binder solution. In a fluidized bed coater, 10 kg of sugar spheres (20 to 50 mesh) are suspended in warm air and spray coated with the sotalol/binder solution until the seeds are uniformly coated with a desired amount of sotalol.

reactant | sotalol hydrochloride | 10 kg | CC(C)NCC(C=1C=CC(=CC1)NS(=O)(=O)C)O.Cl
solvent | water | about 25 kg | O | H2O
product | sotalol | CC(C)NCC(C=1C=CC(=CC1)NS(=O)(=O)C)O | C12H20N2O3S
